US09216991B2
Intermediate 8: 1-[2-fluoro-1-(fluoromethyl)ethyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole
To a stirred solution of Pyrazole-4-boronic acid pinacol ester (6.6 g, 34 mmol, 1 eq.) in dry THF (150 mL) was added 1,3-Difluoro-2-propanol (5.1 g, 51 mmol, 1.5 eq.) followed by triphenylphosphine (13.5 g, 51 mmol, 1.5 eq.) and Diisopropyl azodicarboxylate (10.5 g, 51 mmol, 1.5 eq.) at 0° C. under nitrogen atmosphere. After the addition, the reaction mixture was stirred at RT for 48 h. The reaction mixture was concentrated under vacuum and the residue was solubilized in EtOAc, washed with water (three times), dried over sodium sulfate, filtered and concentrated. The crude product was redissolved in EtOAc and Pet. Ether was added. The precipitate obtained was filtered off and the filtrate concentrated under reduced pressure to give the title compound as a oil (contaminated with triphenyl phosphine oxide).

reactant | Pyrazole-4-boronic acid pinacol ester | 34 mmol, 6.6 g, 1 eq. | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 1,3-Difluoro-2-propanol | 51 mmol, 5.1 g, 1.5 eq. | FCC(CF)O | C3H6F2O
reactant | triphenylphosphine | 51 mmol, 13.5 g, 1.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 51 mmol, 10.5 g, 1.5 eq. | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-[2-fluoro-1-(fluoromethyl)ethyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole | FCC(CF)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BF2N2O2
